US08669234B2
To a solution of [2-Methyl-1-(6-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-5-aza-spiro[2.4]heptane-5-carbonyl)-propyl]-carbamic acid methyl ester (0.95 g, 1.82 mmol) and 3-[5-(6-Bromo-naphthalen-2-yl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (0.96 g, 1.82 mmol, 1 equiv.) in DME (20 mL) was added K2CO3 (aqueous, 2 M, 3.6 mL, 7.2 mmol, 4 equiv.) and Pd(PPh3)4 (0.11 g, 0.09 mmol, 0.05 equiv.). The slurry was degassed with argon for 5 minutes and heated to 80° C. for 12 hours. The resulting reaction mixture was diluted with EtOAc and washed with water. The aqueous layer was back-extracted with EtOAc and the combined organic layers were dried over Na2SO4 and concentrated. The crude oil was purified by column chromatography (SiO2, 50→100% EtOAc in Hexanes) to provide 3-{5-[6-(4-{2-[5-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (0.53 g, 37%) as a yellow powder. LCMS-ESI+: calc'd for C46H53N7O5: 783.4 (M+). Found: 784.3 (M+H+).

reactant | [2-Methyl-1-(6-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-5-aza-spiro[2.4]heptane-5-carbonyl)-propyl]-carbamic acid methyl ester | 1.82 mmol, 0.95 g | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C28H39BN4O5
reactant | 3-[5-(6-Bromo-naphthalen-2-yl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 1.82 mmol, 0.96 g, 1 equiv. | C(C)(C)(C)OC(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC3=CC=C(C=C3C=C1)Br)C2 | C24H26BrN3O2
reactant | K2CO3 | 7.2 mmol, 2 M, 3.6 mL, 4 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.09 mmol, 0.11 g, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{5-[6-(4-{2-[5-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.53 g, 37% | C(C)(C)(C)OC(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC3=CC=C(C=C3C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CC3(CC3)C1)C(C(C(C)C)NC(=O)OC)=O)C2 | C46H53N7O5
